US06583156B1
2,8-Bis(trifluoromethyl)-4-(tetrahydrofuran-2-yl)quinoline
A solution of 1-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanol (176 mg, 0.5 mmol) in CH2Cl2 (5 mL) was treated with p-toluenesulphonyl chloride (102 mg, 0.55 mmol) and triethylamine (0.084 mL, 0.6 mmol) and stirred at room temperature for 16 h. The mixture was poured into saturated NaHCO3 solution (10 mL), extracted with CH2Cl2 (2×10 mL) and the combined organic phase dried (MgSO4), concentrated in vacuo, purified by chromatography [SiO2, heptane-EtOAc (95:5)] and the resulting solid triturated with cold hexane and filtered to give the title compound (111 mg, 66%) as a white solid: mp 61.0-61.7° C.; IR νmax (Nujol)/cm−1 3096, 2924, 2854, 1603, 1585, 1516, 1463, 1431, 1308, 1178, 1100, 1086 and 775; NMR δH (400 MHz, CDCl3) 1.79-1.86 (1H, m), 2.00-2.16 (2H, m), 2.63-2.71 (1H, m), 4.08 (1H, q, J 7.3 Hz), 4.24-4.29 (1H, m), 5.63 (1H, t, J 7.3 Hz), 7.72 (1H, t, J 7.7 Hz), 7.99 (1H, s), and 8.14-8.18 (2H, m).

reactant | 1-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-hydroxybutanol | 0.5 mmol, 176 mg | FC(C1=NC2=C(C=CC=C2C(=C1)C(CCCO)O)C(F)(F)F)(F)F | C15H13F6NO2
reactant | p-toluenesulphonyl chloride | 0.55 mmol, 102 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.6 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,8-Bis(trifluoromethyl)-4-(tetrahydrofuran-2-yl)quinoline | 111 mg, 66% | FC(C1=NC2=C(C=CC=C2C(=C1)C1OCCC1)C(F)(F)F)(F)F | C15H11F6NO
